US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-6-methoxyquinazolin-4(3H)-one
To a suspension of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one (1.94 g, 4.80 mmol) in N,N-dimethylformamide (20 mL), pyrrolidine (4 mL) was added and the reaction mixture was stirred at room temperature for 16 hours. Solvent was evaporated in vacuo, water (50 mL) was added, and the separated solid was filtered. The solid was washed with ether to give the title compound as a light brown solid. Yield: 0.30 g (16%). MP 201.2-203.1° C. 1H NMR (400 MHz, CDCl3): δ 7.73 (m, 4H), 7.39 (m, 1H), 3.98 (t, J=6.0 Hz, 3H), 3.94 (s, 3H), 2.97 (t, J=6.0 Hz, 2H), 2.69 (br s, 4H), 2.41 (s, 6H), 1.86 (br s, 4H). MS (ES) m/z: 394.21 (M++1).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one | 4.80 mmol, 1.94 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)OC)C | C19H19BrN2O3
reactant | pyrrolidine | 4 mL | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-6-methoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=CC=C(C=C2C(N1)=O)OC | C23H27N3O3
